US06458772B1
c) Synthesis of 2-(N-CBZ-L-valyloxy)-propionic acid
To a solution of 4-methoxybenzyl-2-(N-CBZ-L-valyloxy)-propionate (7.8 g, 17.5 mmole) in dichloromethane (100 ml) was added trifluoroacetic acid (10 ml) and the solution was stirred for one hour at room temperature. The solution was evaporated under reduced pressure and the product was isolated by silica gel column chromatography. Yield: 5.0 g 1H-NMR (CDCl3) 0.94 (m, 6H) 1.56 (d, 3H) 2.30 (m, 1H) 4.42 (m, 1H) 5.12-5.30 (m, 4H) 7.28 (m, 5H)

reactant | 4-methoxybenzyl-2-(N-CBZ-L-valyloxy)-propionate | 17.5 mmole, 7.8 g | COC1=CC=C(CC(C(=O)[O-])(C)OC([C@@H](NC(=O)OCC2=CC=CC=C2)C(C)C)=O)C=C1
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(N-CBZ-L-valyloxy)-propionic acid | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC(C(=O)O)C | C16H21NO6
